US09290485B2
c) 1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid
A mixture of 1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester (4.35 g, 9.42 mmol) and lithiumhydroxide-hydrate (1.976 g, 47.1 mmol) in 80 mL MeOH and 80 mL water was stirred at 30° C. for 3 h. The methanol was evaporated in vacuo. The residual aqueous layer was washed with ethyl acetate, acidified with 1 N aq. HCl and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered and evaporated to yield the crude product which was used in the next step without further purification. 1H-NMR (DMSO-d6, 400 MHz) 13.1 (broad s, 1H), 8.76 (s, 1H), 7.27-7.39 (m, 4H), 5.63 (s, 2H), 5.20 (t, 1H), 4.48 (d, 2H).

reactant | 1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 9.42 mmol, 4.35 g | C(C)OC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CO | C13H15N3O3
reactant | lithiumhydroxide-hydrate | 47.1 mmol, 1.976 g | O.[OH-].[Li+]
solvent | MeOH | 80 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
product | 1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid | OCC1=CC=C(CN2N=NC(=C2)C(=O)O)C=C1 | C11H11N3O3
